US20010027196A1
6-Amino-2-furan-2-yl-4-(pyridin-2-yl-methoxy)-nicotinonitrile
From 6-amino-2-furan-2-yl-4-oxo-1,4-dihydro-pyridine-3-carbonitrile, 2-picolyl chloride hydrochloride and cesium carbonate in DMF. ES-MS m/e (%): 293 (M+H+, 100).

reactant | 6-amino-2-furan-2-yl-4-oxo-1,4-dihydro-pyridine-3-carbonitrile | NC1=CC(C(=C(N1)C=1OC=CC1)C#N)=O | C10H7N3O2
reactant | 2-picolyl chloride hydrochloride | Cl.N1=C(C=CC=C1)CCl
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Amino-2-furan-2-yl-4-(pyridin-2-yl-methoxy)-nicotinonitrile | NC1=NC(=C(C#N)C(=C1)OCC1=NC=CC=C1)C=1OC=CC1 | C16H12N4O2
